datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]N([C:20]1(OC(C([O:21]1)[H])CC)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C([O-:21])[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H]C1C(O[C:20](=[O:10])N1C)[H].[O-:21][H]>>[H]C1C(O[C:20](N1C)([O-:10])[O:21][H])[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)C>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])C 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[NH:10]([H])C([H])C([H])C([H])C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C([H])C([H])C([H])[NH+:10]1([H]) 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC)CCCCCC.[O-:21][H]>>CCCCCCN([C:20]([O-:10])(OC)[O:21][H])CCCCCC 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[O]C([H])C(C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C([H])C(C)[S]2.CC[S:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])C)C1=CC=CC=C1>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)CC>>CCN([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21]CC>>C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])[H])[H])CCCCCC>>CN([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH:10]C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)CC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)CC)[H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O]C)[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O]C)[NH]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
